US04012499
2-(p-Chlorophenylthio)-4-(5-tetrazolyl)benzoic acid (3.41g) was heated with polyphosphoric acid (70g) on a steam bath for 1 hr. The reaction mixture was decomposed by warming with water, and the product filtered off, washed with water, recrystallised from dimethylformamide, and dried at 156° C. in vacuo, giving 7-chloro-3-(5-tetrazolyl)thioxanthone, decomposes without melting.

reactant | 2-(p-Chlorophenylthio)-4-(5-tetrazolyl)benzoic acid | 3.41g | ClC1=CC=C(C=C1)SC1=C(C(=O)O)C=CC(=C1)C1=NN=NN1 | C14H9ClN4O2S
catalyst | zinc | [Zn] | Zn
solvent | water | O | H2O
product | 7-chloro-3-(5-tetrazolyl)thioxanthone | ClC1=CC=C2SC=3C=C(C=CC3C(C2=C1)=O)C1=NN=NN1 | C14H7ClN4OS
